US06518257B1
(ii) Production of 1-(1H-imidazol-4-yl)-2-methyl-1-[3-(2-thienyl)phenyl]-1-propanol
By the reaction in the same manner as in Example 4-(iii) using 2-methyl-1-[3-(2-thienyl)phenyl]-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (1.21 g) and pyridine hydrochloride (465 mg), the title compound (585 mg) was obtained as colorless plate crystals.

reactant | 2-methyl-1-[3-(2-thienyl)phenyl]-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.21 g | CC(C(O)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)C=1SC=CC1)C | C36H32N2OS
reactant | pyridine hydrochloride | 465 mg | Cl.N1=CC=CC=C1
product | 1-(1H-imidazol-4-yl)-2-methyl-1-[3-(2-thienyl)phenyl]-1-propanol | 585 mg | N1C=NC(=C1)C(C(C)C)(O)C1=CC(=CC=C1)C=1SC=CC1 | C17H18N2OS
